US06855713B2
2-[2-(4-Benzoylamidinophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-(4-benzamidopiperidinyl)-amide
1.0 g (2 mmol) of 2-[2-(4-Amidinophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-(4-benzamido-piperidinyl)-amide and 3.2 ml Triethylamine (23 mmol) are dissolved in 10 ml of dimethyl formamide. The mixture is cooled down to 0° C. and 0.418 ml of benzoyl chloride (3.6 mmol) are slowly added dropwise. After 2 hours 20 ml of water are added to the mixture, and the aqueous phase is extracted with 20 ml of acetic ester. The organic phase is again washed with waterand dried over sodium sulphate. The solvent is distilled off under vacuum. The residue is chromatographed over silica gel with acetic ester, and the oily product is triturated with petroleum ether. The precipate is filtered and washed with petroleum ether. Yield: 0.160 g (15%); MPt: 150-154° C.;

reactant | 2-[2-(4-Amidinophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-(4-benzamido-piperidinyl)-amide | 2 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)NC(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C(N)=N)C)C=C1 | C30H33N7O2
reactant | Triethylamine | 23 mmol, 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 3.6 mmol, 0.418 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 20 ml | O | H2O
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[2-(4-Benzoylamidinophenyl)-ethyl]-1-methyl-benzimidazole-5-yl-carboxylic acid-(4-benzamidopiperidinyl)-amide | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)NC(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C(NC(C2=CC=CC=C2)=O)=N)C)C=C1 | C37H37N7O3
